US08217177B2
6-(difluoro(6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline
A suspension of 1-(6-(3-methylisoxazol-5-yl)pyridazin-3-yl)hydrazine hydrochloride (200 mg, 879 μmol) and methyl 2,2-difluoro-2-(quinolin-6-yl)acetate (208 mg, 879 μmol) in 5 M HCl (1 mL) was appropriately sealed and heated to 150° C. with microwaves for 4 h. The reaction was then quenched by a dropwise into cold 5 M NaOH (2 mL) and aqueous extracted with CHCl3/IPA (25 mL). The organic phase was then dried over MgSO4, concentrated, and purified with silica (40 g) eluting with 1>5% 2 M NH3 in MeOH/DCM. The product was then further purified on RP-HPLC eluting with water/ACN (0.1% TFA). Combined fractions concentrated, dissolved in DCM (5 mL) and MeOH (5 mL), then stirred with Si-Carbonate (0.5 g; 35 mmol) for 1 h. Si-Carbonate removed by filtration and filtrated concentrated with <0.5 mL remaining with product isolated by trituration. MS (ESI pos. ion) m/z: 379 (MH+). Calc'd exact mass for C19H12F2N6O: 378.

reactant | 1-(6-(3-methylisoxazol-5-yl)pyridazin-3-yl)hydrazine hydrochloride | 879 μmol, 200 mg | Cl.CC1=NOC(=C1)C1=CC=C(N=N1)NN
reactant | methyl 2,2-difluoro-2-(quinolin-6-yl)acetate | 879 μmol, 208 mg | FC(C(=O)OC)(C=1C=C2C=CC=NC2=CC1)F | C12H9F2NO2
solvent | HCl | 5 M, 1 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 6-(difluoro(6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline | FC(C=1C=C2C=CC=NC2=CC1)(C1=NN=C2N1N=C(C=C2)C2=CC(=NO2)C)F | C19H12F2N6O
